US08835432B2
2-Chloro-8-fluoroquinoline (5.00 g, 27.5 mmol) was dissolved in THF (60 mL) and cooled to −78° C. To this solution was added freshly prepared and titrated lithium diisopropylamide (1M solution in THF, 30 mL, 30 mmol, 1.1 eq) over 5 min. The reaction was allowed to stir at −78° C. for 20 min, after which time acetaldehyde (2.3 mL, 41.3 mmol, 1.5 eq.) was added via syringe over 30 seconds (exothermic). After 30 min at −78° C., the reaction was quenched with 50% saturated NH4Cl solution and diluted with EtOAc. The layers were separated and washed with brine, dried over MgSO4, and filtered. The crude reaction mixture was deposited on 30 g of silica gel and passed through a plug of 60 g of silica gel, eluted with 8:2 hexanes:EtOAc. Fractions containing product and a closely (second) eluting regioisomer were collected. The fractions were concentrated and the crude solid was slurried in 140 mL of 9:1 hexanes:EtOAc at reflux for 30 min. After cooling to rt, the solid was filtered and washed with a small amount of cold 9:1 hexanes:EtOAc to afford pure 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol (3.1 g, 13.7 mmol, 50% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.43 (br s, 1H), 7.64 (td, J=7.8, 5.1 Hz, 1H), 7.41 (ddd, J=10.2, 7.4, 1.2 Hz, 1H), 5.39 (qdd, J=6.3, 3.9, 0.8 Hz, 1H), 2.22 (d, J=3.9 Hz, 1H), 1.62 (d, J=6.3 Hz, 3H).

reactant | 2-Chloro-8-fluoroquinoline | 27.5 mmol, 5.00 g | ClC1=NC2=C(C=CC=C2C=C1)F | C9H5ClFN
reactant | lithium diisopropylamide | 30 mmol, 1M, 30 mL, 1.1 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 41.3 mmol, 2.3 mL, 1.5 eq. | C(C)=O | C2H4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | 13.7 mmol, 3.1 g, 50% yield | ClC1=NC2=C(C=CC=C2C=C1C(C)O)F | C11H9ClFNO
